US06583135B2
Preparation of 2-(4-Chloro-1H-indol-3-yl)ethanol
To a solution of 4-chloro-3-(1H)-indoleglyoxylic acid ethyl ester (7.04 g, 30.0 mmol) in dry THF (0.4 L), at 0° C. under argon was added portionwise LiAlH4 (5.4 g, 135.2 mmol). The suspension was stirred at 0° C. for 20 min and at reflux for 3.5 h, cooled to 0° C., and water (17.6 mL) was added. It was stirred for 10 min, and then diluted with EtOAc. The reaction mixture was filtered. The solid was washed with EtOAc. The combined EtOAc portions were washed with water and brine, dried, filtered, and concentrated to give the title compound: TLC Rf=0.38 (9:1 CH2Cl2/Me2CO); MS (ESI−) m/z 194.0; 13C NMR (75 MHz, CDCl3) δ 138.02, 126.42, 124.21, 124.12, 122.70, 120.61, 112.63, 110.06, 63.59, 29.78.

reactant | 4-chloro-3-(1H)-indoleglyoxylic acid ethyl ester | 30.0 mmol, 7.04 g | C(C)OC(C(=O)C1=CNC2=CC=CC(=C12)Cl)=O | C12H10ClNO3
reactant | LiAlH4 | 135.2 mmol, 5.4 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 17.6 mL | O | H2O
solvent | THF | 0.4 L | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-Chloro-1H-indol-3-yl)ethanol | ClC1=C2C(=CNC2=CC=C1)CCO | C10H10ClNO
